US05545638
D. 3-(3-Chloro-1,2,5-thiadiazol-4-yl)-1,2,5,6-tetrahydropyridine hydrochloride
To a solution of 3-(3-chloro-1,2,5-thiadiazol-4-yl)-1,2,5,6-tetrahydro-1-methylpyridine (670 mg, 3.1 mmol) in 1,2-dichloroethane (20 ml) was added a solution of 1-chloroethyl-chloroformate (440 mg, 3.1 mmol) in 1,2-dichloroethane at 0° C. The reaction mixture was heated to 40° C. for 2 h and evaporated. The residue was dissolved in methanol and heated to reflux for 1 h. After cooling to room temperature the precipitate was collected by filtration to yield 320 mg (41%). (M.p. 224° C.; M+ : 201 and 203; Compound 17).

reactant | 3-(3-chloro-1,2,5-thiadiazol-4-yl)-1,2,5,6-tetrahydro-1-methylpyridine | 3.1 mmol, 670 mg | ClC1=NSN=C1C=1CN(CCC1)C | C8H10ClN3S
reactant | 1-chloroethyl-chloroformate | 3.1 mmol, 440 mg | ClC(C)OC(=O)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | 3-(3-Chloro-1,2,5-thiadiazol-4-yl)-1,2,5,6-tetrahydropyridine hydrochloride | Cl.ClC1=NSN=C1C=1CNCCC1 | InChI=1S/C7H8ClN3S.ClH/c8-7-6(10-12-11-7)5-2-1-3-9-4-5;/h2,9H,1,3-4H2;1H
